US07034039B2
Tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(2-pyridyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.31 g, 0.65 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 2 h. The reaction was concentrated under reduced pressure to give 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(2-pyridyl)-1(2H)-isoquinolinone dihydrochloride (0.27 g, 93.1%) as an amorphous solid.

reactant | Tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(2-pyridyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.65 mmol, 0.31 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=NC=CC=C1)=O)CC(C)C)=O | C28H37N3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(2-pyridyl)-1(2H)-isoquinolinone dihydrochloride | 0.27 g, 93.1% | Cl.Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=NC=CC=C1)=O)CC(C)C | InChI=1S/C23H29N3O2.2ClH/c1-4-5-12-28-22-19-13-17(20-8-6-7-11-25-20)9-10-18(19)23(27)26(15-16(2)3)21(22)14-24;;/h6-11,13,16H,4-5,12,14-15,24H2,1-3H3;2*1H
